US06323235B1
Methyl (1-(2-bromoethyl)indole-4-yloxy)acetate
Under argon atmosphere, triphenylphosphine (1.05 g) and tetrabromomethane (2.00 g) were added to methyl (1-(2-hydroxyethyl)indole-4-yloxy)acetate (500 mg) in methylene chloride (10 ml) at room temperature, and the resulting mixture was stirred at room temperature for 15 minutes. Since the reaction had not been completed, triphenylphosphine (1.00 g) was added and the reaction mixture was stirred at room temperature for 30 minutes. To the reaction mixture, aqueous sodium hydrogen carbonate solution (5 ml) and water (10 ml) were added and the resultant was extracted with ethyl acetate (3×20ml). The obtained organic layers were washed with saturated brine and dried over sodium sulfate. After removing solids by filtration, the solvent was removed under reduced pressure, and the obtained crude product was purified by silica gel column chromatography to obtain the desired compound (602 mg, yield: 96%).

reactant | triphenylphosphine | 1.05 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | tetrabromomethane | 2.00 g | BrC(Br)(Br)Br | CBr4
reactant | methyl (1-(2-hydroxyethyl)indole-4-yloxy)acetate | 500 mg | OCCN1C=CC2=C(C=CC=C12)OCC(=O)OC | C13H15NO4
reactant | triphenylphosphine | 1.00 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | sodium hydrogen carbonate | 5 ml | C(O)([O-])=O.[Na+]
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
solvent | water | 10 ml | O | H2O
product | Methyl (1-(2-bromoethyl)indole-4-yloxy)acetate | 602 mg, yield: 96% | BrCCN1C=CC2=C(C=CC=C12)OCC(=O)OC | C13H14BrNO3
